*$
* INA186A4
*****************************************************************************
* (C) Copyright 2019 Texas Instruments Incorporated. All rights reserved.                                            
*****************************************************************************
** This model is designed as an aid for customers of Texas Instruments.
** TI and its licensors and suppliers make no warranties, either expressed
** or implied, with respect to this model, including the warranties of 
** merchantability or fitness for a particular purpose.  The model is
** provided solely on an "as is" basis.  The entire risk as to its quality
** and performance is with the customer
*****************************************************************************
*
* This model is subject to change without notice. Texas Instruments
* Incorporated is not responsible for updating this model.
*
*****************************************************************************
*
** Released by: Texas Instruments Inc.
* Part: INA186A4
* Date: 6/3/19
* Model Type: All in One
* Simulator: TINA
* Simulator Version: 9.3.150.328 SF-TI
* EVM Order Number: NA
* EVM Users Guide: NA
* Datasheet: SBOS863
* Topologies Supported: NA
*
* Model Version: Final 1.1
*
*****************************************************************************
*
* Updates:
*
* Final 1.00, Release to Web.
* Version 1.10 - Update ENABLE/DISABLE time and RVRR
*
*****************************************************************************
*
* Model Usage Notes:
*
* 1. The following features have been modeled
*    Gain, BW, IIB, VOS, VOS vs. Temp, Zout, Slew Rate for 1.5Vpp Output, Noise, CMRR, 
*    PSRR, VOUT vs IOUT, Enable/Disable, RVRR
* 2. It may not conform to the published specs for power supplies less than 5.0V or Slew Rate at higher output voltage swings.
*
* If convegence errors occurr, increase the values of the sim analysis parameters:
* DC Absolute Current Error
* DC Absolute Voltage Error
******************************************************************************
**
*$
.SUBCKT INA186A4 IN+ IN- OUT REF ENABLE VS GND
E_E9         IN+_AMP GND N09127 GND 1
R_R3         IN-_AMP OPA_IN- 5k  
E_E8         IN-_AMP GND N08975 GND 1
E_E2         N04900 GND GND IN- 1
E_E5         IN-_CM_X N08975 CMRR_OUT GND 0.5
X_VOS_DRIFT  N02038 IN+ VOS_DRIFT_INA186A4
R_R4         IN+_AMP OPA_IN+ 5k  
R_R8         N11561 GND  1  
R_R5         OPA_IN- OUT  1e6  
E_E3         IN- IN-_CM_X CM_IN REF 1
X_U6         OPA_IN+ OPA_IN- VS GND OUT ENABLE CNTRL MID INA186A4_OPA
R_R6         OPA_IN+ REF  1e6  
R_R7         GND ENABLE  25e6  
L_L1         CMRR_OUT N11561  0.105mH 
G_G2         IN- N02038 IN- N02038 0.15u
G_G1         GND CMRR_OUT CM_IN GND 0.158u
E_E6         IN+_CM_X N09127 CMRR_OUT GND -0.5
E_E1         CM_IN GND IN+ N04900 0.5
E_E4         N02038 IN+_CM_X CM_IN REF 1
X_U4         VS GND CNTRL MID CM_IN IN- IBIAS_ENABLE_INA186A4 
X_U5         VS GND CNTRL MID CM_IN IN+ IBIAS_ENABLE_INA186A4
.ENDS
***
***
*$
.subckt INA186A4_OPA IN+ IN- VCC VEE OUT ENABLE OUT_CNTRL MID
******************************************************
.model R_NOISELESS RES (TCE=0 T_ABS=-273.15)
******************************************************
V_GRp       45 MID 298
V_GRn       46 MID -342
V_ISCp      39 MID 14
V_ISCn      40 MID -20.1
V_ORn       38 VCLP -5.0467
V11         44 37 0
V_ORp       36 VCLP 2.9475
V12         43 35 0
V4          27 OUTx 0
VCM_MIN     67 VEE_B -0.1
VCM_MAX     68 VCC_B 0.1
XI_Q        VCC VEE MID OUT_CNTRL VCCS_IQ_W_EN_INA186A4
V_OS        75 30 1.45e-15
XU5         ESDp ESDn VCC VEE ESD_0_INA186A4
XU4         19 ESDp MID PSRR_CMRR_0_INA186A4
XU3         20 VEE_B MID PSRR_CMRR_1_INA186A4
XU2         21 VCC_B MID PSRR_CMRR_2_INA186A4
XU1         23 22 CLAMP VSENSE CLAW_CLAMP CL_CLAMP 24 26 27 MID OUT_CNTRL AOL_ZO_0_INA186A4
C28         31 MID 1P  
R77         32 31 R_NOISELESS 100 
C27         33 MID 1P  
R76         34 33 R_NOISELESS 100 
R75         MID 35 R_NOISELESS 1 
GVCCS8      35 MID 36 MID  -1
R74         37 MID R_NOISELESS 1 
GVCCS7      37 MID 38 MID  -1
Xi_nn       ESDn MID FEMT_0_INA186A4
Xi_np       MID 30 FEMT_0_INA186A4
Xe_n        ESDp 30 VNSE_0_INA186A4
XIQPos      VIMON MID MID VCC VCCS_LIMIT_IQ_0_INA186A4
XIQNeg      MID VIMON VEE MID VCCS_LIMIT_IQ_0_INA186A4
C_DIFF      ESDp ESDn 4e-15  
XCL_AMP     39 40 VIMON MID 41 42 CLAMP_AMP_LO_0_INA186A4
SOR_SWp     CLAMP 43 CLAMP 43  S_VSWITCH_1
SOR_SWn     44 CLAMP 44 CLAMP  S_VSWITCH_1
XGR_AMP     45 46 47 MID 48 49 CLAMP_AMP_HI_0_INA186A4
R39         45 MID R_NOISELESS 1T 
R37         46 MID R_NOISELESS 1T 
R42         VSENSE 47 R_NOISELESS 1M 
C19         47 MID 1F  
R38         48 MID R_NOISELESS 1 
R36         MID 49 R_NOISELESS 1 
R40         48 50 R_NOISELESS 1M 
R41         49 51 R_NOISELESS 1M 
C17         50 MID 1F  
C18         MID 51 1F  
XGR_SRC     50 51 CLAMP MID VCCS_LIM_GR_0_INA186A4
R21         41 MID R_NOISELESS 1 
R20         MID 42 R_NOISELESS 1 
R29         41 52 R_NOISELESS 1M 
R30         42 53 R_NOISELESS 1M 
C9          52 MID 1F  
C8          MID 53 1F  
XCL_SRC     52 53 CL_CLAMP MID VCCS_LIM_4_0_INA186A4
R22         39 MID R_NOISELESS 1T 
R19         MID 40 R_NOISELESS 1T 
XCLAWp      VIMON MID 54 VCC_B VCCS_LIM_CLAW+_0_INA186A4
XCLAWn      MID VIMON VEE_B 55 VCCS_LIM_CLAW-_0_INA186A4
R12         54 VCC_B R_NOISELESS 1K 
R16         54 56 R_NOISELESS 1M 
R13         VEE_B 55 R_NOISELESS 1K 
R17         57 55 R_NOISELESS 1M 
C6          57 MID 1F  
C5          MID 56 1F  
G2          VCC_CLP MID 56 MID  -1M
R15         VCC_CLP MID R_NOISELESS 1K 
G3          VEE_CLP MID 57 MID  -1M
R14         MID VEE_CLP R_NOISELESS 1K 
XCLAW_AMP   VCC_CLP VEE_CLP VOUT_S MID 58 59 CLAMP_AMP_LO_0_INA186A4
R26         VCC_CLP MID R_NOISELESS 1T 
R23         VEE_CLP MID R_NOISELESS 1T 
R25         58 MID R_NOISELESS 1 
R24         MID 59 R_NOISELESS 1 
R27         58 60 R_NOISELESS 1M 
R28         59 61 R_NOISELESS 1M 
C11         60 MID 1F  
C10         MID 61 1F  
XCLAW_SRC   60 61 CLAW_CLAMP MID VCCS_LIM_3_0_INA186A4
H2          34 MID V11 -1
H3          32 MID V12 1
C12         SW_OL MID 100P  
R32         62 SW_OL R_NOISELESS 100 
R31         62 MID R_NOISELESS 1 
XOL_SENSE   MID 62 33 31 OL_SENSE_0_INA186A4
S1          24 26 SW_OL MID  S_VSWITCH_3
H1          63 MID V4 1K
S7          VEE OUT VEE OUT  S_VSWITCH_4
S6          OUT VCC OUT VCC  S_VSWITCH_4
R11         MID 64 R_NOISELESS 1T 
R18         64 VOUT_S R_NOISELESS 100 
C7          VOUT_S MID 1N  
E5          64 MID OUTx MID  1
C13         VIMON MID 1N  
R33         63 VIMON R_NOISELESS 100 
R10         MID 63 R_NOISELESS 1T 
R47         65 VCLP R_NOISELESS 100 
C24         VCLP MID 100P  
E4          65 MID CL_CLAMP MID  1
C4          23 MID 1F  
R9          23 66 R_NOISELESS 1M 
R7          MID 67 R_NOISELESS 1T 
R6          68 MID R_NOISELESS 1T 
R8          MID 66 R_NOISELESS 1 
XVCM_CLAMP  69 MID 66 MID 68 67 VCCS_EXT_LIM_0_INA186A4
E1          MID 0 70 0  1
R89         VEE_B 0 R_NOISELESS 1 
R5          71 VEE_B R_NOISELESS 1M 
C3          71 0 1F  
R60         70 71 R_NOISELESS 1MEG 
C1          70 0 1  
R3          70 0 R_NOISELESS 1T 
R59         72 70 R_NOISELESS 1MEG 
C2          72 0 1F  
R4          VCC_B 72 R_NOISELESS 1M 
R88         VCC_B 0 R_NOISELESS 1 
G17         VEE_B 0 VEE 0  -1
G16         VCC_B 0 VCC 0  -1
R_PSR       73 69 R_NOISELESS 1K 
G_PSR       69 73 21 20  -1M
R2          22 ESDn R_NOISELESS 1M 
R1          73 74 R_NOISELESS 1M 
R_CMR       75 74 R_NOISELESS 1K 
G_CMR       74 75 19 MID  -1M
C_CMn       ESDn MID 5e-15  
C_CMp       MID ESDp 5e-15  
R53         ESDn MID R_NOISELESS 1T 
R52         MID ESDp R_NOISELESS 1T 
R35         IN- ESDn R_NOISELESS 10M 
R34         IN+ ESDp R_NOISELESS 10M 
XCONTROL    ENABLE VCC VEE MID IN+ IN- OUT_CNTRL CONTROL_INA186A4 
RX           OUTX OUT 1
.MODEL S_VSWITCH_1 VSWITCH (RON=10e-3 ROFF=1e9 VON=10e-3 VOFF=0)
.MODEL S_VSWITCH_3 VSWITCH (RON=1e-3 ROFF=1e9 VON=900e-3 VOFF=800e-3)
.MODEL S_VSWITCH_4 VSWITCH (RON=50 ROFF=1e12 VON=500e-3 VOFF=450e-3)
.MODEL S_VSWITCH_5 VSWITCH (RON=0.01 ROFF=1 VON=600e-3 VOFF=400e-3)
.MODEL S_VSWITCH_6 VSWITCH (RON=1e6 ROFF=1e12 VON=400e-3 VOFF=600e-3)
.ENDS
*$
*
*
.SUBCKT VCCS_IQ_W_EN_INA186A4 VCC VEE MID OUT_CNTRL
.PARAM IQ_EN = 53u
.PARAM IQ_DIS = 0.01u
G1 VCC VEE VALUE = {V(OUT_CNTRL,MID)*IQ_EN + (1- V(OUT_CNTRL,MID))*IQ_DIS}
.ENDS
*$
*
.SUBCKT CONTROL_INA186A4 ENABLE VCC VEE MID IN+ IN- OUT_CNTRL
.PARAM VSmax = 6
.PARAM VSmin = 1.7
.PARAM VCMmax = 42
.PARAM VCMmin = -0.3
.PARAM VinDiffMax = 42
.PARAM VpinDelta = 0.3
E1 NVCM 0 VALUE = {0.5*(V(IN+,VEE)+V(IN-,VEE))}
E2 NDV  0 VALUE = {VinDiffMax-ABS(V(IN+,IN-))}
EVCCMAX NVCCMAX 0 VALUE = {0.5*(SGN(VSmax-V(VCC,VEE)) - ABS(SGN(VSmax-V(VCC,VEE))) + 2)}
EVCCMIN NVCCMIN 0 VALUE = {0.5*(SGN(V(VCC,VEE)-VSmin) - ABS(SGN(V(VCC,VEE)-VSmin)) + 2)}
EVCMMAX NVCMMAX 0 VALUE = {0.5*(SGN(VCMmax - V(NVCM)) - ABS(SGN(VCMmax - V(NVCM))) + 2)}
EVCMMIN NVCMMIN 0 VALUE = {0.5*(SGN(V(NVCM) - VCMmin) - ABS(SGN(V(NVCM) - VCMmin)) + 2)}
EVINDIFFMAX VINDIFFMAX 0 VALUE = {0.5*(SGN(V(NDV)) - ABS(SGN(V(NDV))) + 2)}
ETHR NTHR 0 VALUE = {0.5*(V(VCC) + V(VEE))}
EEN NEN 0 VALUE = {0.5*(SGN(V(ENABLE,VEE)-V(NTHR)) - ABS(SGN(V(ENABLE,VEE)-V(NTHR))) + 2)}
*ECNTRL N1 0 VALUE = {V(NVCCMAX)*V(NVCCMIN)*V(NVCMMAX)*V(NVCMMIN)*V(VINDIFFMAX)*V(NEN)}
ECNTRL N1 0 VALUE = {10*V(NVCCMAX)*V(NVCCMIN)*V(NVCMMAX)*V(NVCMMIN)*V(VINDIFFMAX)*V(NEN)}
RS1 N1 N2 3.75k
RS2 N1 N3 100
D1  N2 N3 DD
C1  N2 0 18n
VREF NR 0 5
ECOMP OUT_CNTRL MID VALUE = {0.5*(SGN(V(N2,NR)) - ABS(SGN(V(N2,NR))) + 2)}
.MODEL DD D RS=0.001 N = 0.001 
.ENDS
*$
*
.SUBCKT ESD_0_INA186A4 ESDp ESDn VCC VEE
S2          ESDn VCC ESDn VCC  S_VSWITCH_1
S4          VEE ESDn VEE ESDn  S_VSWITCH_1
S3          ESDp VCC ESDp VCC  S_VSWITCH_1
S5          VEE ESDp VEE ESDp  S_VSWITCH_1
.MODEL S_VSWITCH_1 VSWITCH (RON=50 ROFF=1e12 VON=500e-3 VOFF=450e-3)
.ENDS
*$
*
.SUBCKT PSRR_CMRR_0_INA186A4 psrr_in psrr_vccb mid 
.model R_NOISELESS RES ( TCE=0 T_ABS=-273.15)
R74         mid psrr_in R_NOISELESS 1 
G_2         psrr_in mid 4 mid  -50
R2b         mid 4 R_NOISELESS 2040816.3265 
C2a         4 5 7.9577e-13 
R73         5 4 R_NOISELESS 100MEG 
R49         mid 5 R_NOISELESS 1 
GVCCS7      5 mid 6 mid  -1
R2a         mid 6 R_NOISELESS 1318.0174 
C1a         6 7 1.2075e-09 
R48         7 6 R_NOISELESS 100MEG 
G_1         7 mid psrr_vccb mid  -0.0071083
Rsrc        mid 7 R_NOISELESS 1 
.ENDS
*$
*
.SUBCKT PSRR_CMRR_1_INA186A4 psrr_in psrr_vccb mid 
.model R_NOISELESS RES ( TCE=0 T_ABS=-273.15)
R74         mid psrr_in R_NOISELESS 1 
G_2         psrr_in mid 4 mid  {-142.8571*12}
R2b         mid 4 R_NOISELESS 704934.5418 
C2a         4 5 2.2736e-13 
R73         5 4 R_NOISELESS 100MEG 
R49         mid 5 R_NOISELESS 1 
GVCCS7      5 mid 6 mid  -1
R2a         mid 6 R_NOISELESS 3000.09  
C1a         6 7 2.7p 
R48         7 6 R_NOISELESS 100MEG 
G_1         7 mid psrr_vccb mid  -0.0033333
Rsrc        mid 7 R_NOISELESS 1 
.ENDS
*$
*
.SUBCKT PSRR_CMRR_2_INA186A4 psrr_in psrr_vccb mid 
.model R_NOISELESS RES ( TCE=0 T_ABS=-273.15)
R74         mid psrr_in R_NOISELESS 1 
G_2         psrr_in mid 4 mid  {-142.8571*12}
R2b         mid 4 R_NOISELESS 704934.5418 
C2a         4 5 2.2736e-13 
R73         5 4 R_NOISELESS 100MEG 
R49         mid 5 R_NOISELESS 1 
GVCCS7      5 mid 6 mid  -1
R2a         mid 6 R_NOISELESS 3000.09 
C1a         6 7 2.7p 
R48         7 6 R_NOISELESS 100MEG 
G_1         7 mid psrr_vccb mid  -0.0033333
Rsrc        mid 7 R_NOISELESS 1 
.ENDS
*$
*
.SUBCKT VCCS_LIM_2_0_INA186A4  VC+ VC- IOUT+ IOUT- CNTRL MID
.PARAM GAIN = {5.9*0.00053148*9}
.PARAM IPOS = {0.001706*9}
.PARAM INEG = {-0.0017096*9}
G1 IOUT+ IOUT- VALUE={LIMIT(GAIN*V(CNTRL,MID)*V(VC+,VC-),INEG,IPOS)}
.ENDS
*$
*
.SUBCKT VCCS_LIM_1_0_INA186A4  VC+ VC- IOUT+ IOUT- CNTRL MID
.PARAM GAIN = 1E-4
.PARAM IPOS = .5
.PARAM INEG = -.5
G1 IOUT+ IOUT- VALUE={LIMIT(GAIN* V(CNTRL,MID)*V(VC+,VC-),INEG,IPOS)}
.ENDS
*$
*
.SUBCKT AOL_ZO_0_INA186A4 AOL_INP AOL_INN CLAMP VSENSE CLAW_CLAMP CL_CLAMP ZO_CLEFT ZO_CRIGHT ZO_OUT MID CNTRL 
.MODEL R_NOISELESS RES ( TCE=0 T_ABS=-273.15)
C1_A0          CLAMP MID {2*3.9413e-09*9}
R4_A0          MID CLAMP R_NOISELESS 1MEG 
XVCCS_LIM_2_A0 4_A0 MID MID CLAMP CNTRL MID VCCS_LIM_2_0_INA186A4
R3_A0          MID 4_A0 R_NOISELESS 1MEG 
XVCCS_LIM_1_A0 AOL_INP AOL_INN MID 4_A0 CNTRL MID VCCS_LIM_1_0_INA186A4
R4_VS         VSENSE MID 1K 
GVCCS4_VS     VSENSE MID CLAMP MID  -1M
C8_A2          4_A2 MID 5.2508e-11 
R18_A2         4_A2 out2 10e3
R17_A2         out2 5_A2 285.7143 
R16_A2         5_A2 MID 1 
GVCCS10_A2     5_A2 MID VSENSE MID  -1
*AOL_POLE (PSpice format)
C2_A3          out3 MID 1.2732e-15 
R3_A3          out3 MID 1MEG 
GVCCS3_A3      out3 MID out2 MID  -1U
C8_A4          4_A4 MID 5.9989e-14 
R18_A4         4_A4 out4 10e3
R17_A4         out4 5_A4 133615.3846 
R16_A4         5_A4 MID 1 
GVCCS10_A4     5_A4 MID out3 MID  -1
R4_CC         CLAW_CLAMP MID 1K 
GVCCS4_CC     CLAW_CLAMP MID out4 MID  -1M
R4_CL         CL_CLAMP MID 1K 
GVCCS4_CL     CL_CLAMP MID CLAW_CLAMP MID  -1M
G_Aol_Zo    Zo_Cleft MID VALUE = {-48615.8593*V(CNTRL,MID)*V(CL_CLAMP,ZO_OUT)}  
GVCCS1_1      outz1 MID VALUE = {-12.3706*V(CNTRL,MID)*V(Zo_Cright,MID)}  
C1_1          Zo_Cleft Zo_Cright 5.9348e-06 
R2_1          Zo_Cright MID R_NOISELESS 879.4622 
R1_1          Zo_Cright Zo_Cleft R_NOISELESS 10K 
Rdc_1         Zo_Cleft MID R_NOISELESS 1 
GVCCS2_2      outz2 MID net2 MID  -1
C2_2          5_2 MID 8.3395e-10 
R5_2          net2 5_2 R_NOISELESS 10K 
S2            net2 outz1 CNTRL MID V_SWITCH_ZO
.MODEL V_SWITCH_ZO VSWITCH (RON=7216901.1397 ROFF=47.5k VON=0.75 VOFF=0.25)
R7_2          outz1 MID R_NOISELESS 1 
GVCCS2_3      outz3 MID net3 MID  -1
C2_3          5_3 MID 1.512e-11 
R5_3          net3 5_3 R_NOISELESS 10K 
R4_3          net3 outz2 R_NOISELESS 17333.3333
R7_3          outz2 MID R_NOISELESS 1 
GVCCS2_4      outz4 MID net4 MID  -1
C2_4          5_4 MID 1.512e-11 
R5_4          net4 5_4 R_NOISELESS 10K 
R4_4          net4 outz3 R_NOISELESS 23833.3333
R7_4          outz3 MID R_NOISELESS 1
R1_5          2_5  MID R_NOISELESS 1 
R11_5         5_5  MID R_NOISELESS 163.1346
C4_5          5_5  outz4 8.575e-12
R10_5         5_5  outz4 R_NOISELESS 10K 
XVCVS_LIM_1 5_5  MID MID 2_5   VCCS_LIM_ZO_0_INA186A4
R9_5          outz4 MID R_NOISELESS 1 
Rdummy      MID ZO_OUT R_NOISELESS 70590 
Rx          ZO_OUT 2_5 R_NOISELESS 705900 
.ENDS
*$
*
.SUBCKT VCCS_LIM_ZO_0_INA186A4  VC+ VC- IOUT+ IOUT-
.PARAM GAIN = 62.2991
.PARAM IPOS = 19765.2
.PARAM INEG = -28377.181
G1 IOUT+ IOUT- VALUE={LIMIT(GAIN*V(VC+,VC-),INEG,IPOS)}
.ENDS
*$
*
.SUBCKT FEMT_0_INA186A4  1 2
.PARAM FLWF=0.1u
.PARAM NLFF=0.01
.PARAM NVRF=0.01
.PARAM GLFF={PWR(FLWF,0.25)*NLFF/1164}
.PARAM RNVF={1.184*PWR(NVRF,2)}
.MODEL DVNF D KF={PWR(FLWF,0.5)/1E11} IS=1.0E-16
I1 0 7 10E-3
I2 0 8 10E-3
D1 7 0 DVNF
D2 8 0 DVNF
E1 3 6 7 8 {GLFF}
R1 3 0 1E9
R2 3 0 1E9
R3 3 6 1E9
E2 6 4 5 0 10
R4 5 0 {RNVF}
R5 5 0 {RNVF}
R6 3 4 1E9
R7 4 0 1E9
G1 1 2 3 4 1E-6
.ENDS
*$
*
.SUBCKT VNSE_0_INA186A4  1 2
.PARAM FLW=0.1u
.PARAM NLF=0.0045
.PARAM NVR=71.2
.PARAM GLF={PWR(FLW,0.25)*NLF/1164}
.PARAM RNV={1.184*PWR(NVR,2)}
.MODEL DVN D KF={PWR(FLW,0.5)/1E11} IS=1.0E-16
I1 0 7 10E-3
I2 0 8 10E-3
D1 7 0 DVN
D2 8 0 DVN
E1 3 6 7 8 {GLF}
R1 3 0 1E9
R2 3 0 1E9
R3 3 6 1E9
E2 6 4 5 0 10
R4 5 0 {RNV}
R5 5 0 {RNV}
R6 3 4 1E9
R7 4 0 1E9
E3 1 2 3 4 1
.ENDS
*$
*
.SUBCKT VCCS_LIMIT_IQ_0_INA186A4  VC+ VC- IOUT+ IOUT-
.PARAM GAIN = 1E-3
G1 IOUT- IOUT+ VALUE={IF( (V(VC+,VC-)<=0),0,GAIN*V(VC+,VC-) )}
.ENDS
*$
*
.SUBCKT CLAMP_AMP_LO_0_INA186A4  VC+ VC- VIN COM VO+ VO-
.PARAM G=1
GVO+ COM VO+ VALUE = {IF(V(VIN,COM)>V(VC+,COM),((V(VIN,COM)-V(VC+,COM))*G),0)}
GVO- COM VO- VALUE = {IF(V(VIN,COM)<V(VC-,COM),((V(VC-,COM)-V(VIN,COM))*G),0)}
.ENDS
*$
*
.SUBCKT CLAMP_AMP_HI_0_INA186A4  VC+ VC- VIN COM VO+ VO-
.PARAM G=10
GVO+ COM VO+ VALUE = {IF(V(VIN,COM)>V(VC+,COM),((V(VIN,COM)-V(VC+,COM))*G),0)}
GVO- COM VO- VALUE = {IF(V(VIN,COM)<V(VC-,COM),((V(VC-,COM)-V(VIN,COM))*G),0)}
.ENDS
*$
*
.SUBCKT VCCS_LIM_GR_0_INA186A4  VC+ VC- IOUT+ IOUT-
.PARAM GAIN = 1
.PARAM IPOS = 0.0034121
.PARAM INEG = -0.0034121
G1 IOUT+ IOUT- VALUE={LIMIT(GAIN*V(VC+,VC-),INEG,IPOS)}
.ENDS
*$
*
.SUBCKT VCCS_LIM_4_0_INA186A4  VC+ VC- IOUT+ IOUT-
.PARAM GAIN = 1
.PARAM IPOS = 1.2516
.PARAM INEG = -1.4364
G1 IOUT+ IOUT- VALUE={LIMIT(GAIN*V(VC+,VC-),INEG,IPOS)}
.ENDS
*$
*
.SUBCKT VCCS_LIM_CLAW+_0_INA186A4  VC+ VC- IOUT+ IOUT-
G1 IOUT+ IOUT- TABLE {ABS(V(VC+,VC-))} =
+(0, 0)
+(4.6, 0.000402)
+(9.2, 0.000929)
+(12.2667, 0.0015083)
+(12.42, 0.0015561)
+(12.7267, 0.0016751)
+(13.0333, 0.0018457)
+(13.34, 0.002121)
+(13.6467, 0.002361)
+(13.8, 0.002471)
.ENDS
*$
*
.SUBCKT VCCS_LIM_CLAW-_0_INA186A4  VC+ VC- IOUT+ IOUT-
G1 IOUT+ IOUT- TABLE {ABS(V(VC+,VC-))} =
+(0, 4.3e-08)
+(6.6667, 0.00022133)
+(13.3333, 0.00047033)
+(17.7778, 0.000666)
+(18, 0.000677)
+(18.4444, 0.000699)
+(18.8889, 0.00072144)
+(19.3333, 0.00074367)
+(19.7778, 0.00076689)
+(20, 0.000779)
.ENDS
*$
*
.SUBCKT VCCS_LIM_3_0_INA186A4  VC+ VC- IOUT+ IOUT-
.PARAM GAIN = 1
.PARAM IPOS = 0.6258
.PARAM INEG = -0.7182
G1 IOUT+ IOUT- VALUE={LIMIT(GAIN*V(VC+,VC-),INEG,IPOS)}
.ENDS
*$
* 
.SUBCKT OL_SENSE_0_INA186A4  COM SW+ OLN  OLP
GSW+ COM SW+ VALUE = {IF((V(OLN,COM)>10E-3 | V(OLP,COM)>10E-3),1,0)}
.ENDS
*$
*
.SUBCKT VCCS_EXT_LIM_0_INA186A4  VIN+ VIN- IOUT- IOUT+ VP+ VP-
.PARAM GAIN = 1
G1 IOUT+ IOUT- VALUE={LIMIT(GAIN*V(VIN+,VIN-),V(VP-,VIN-), V(VP+,VIN-))}
.ENDS
*$
*
.SUBCKT IBIAS_ENABLE_INA186A4 VCC VEE EN MID VIN IOUT
.PARAM RIB = 10.2e10
.PARAM M = 48.6e-12
.PARAM VS_MIN = 1.8
G1 IOUT VEE VALUE = {V(EN,MID)*V(VIN,VEE)/RIB + M*V(EN,MID)*(V(VCC,VEE)-VS_MIN)}
.ENDS
*$
*
.SUBCKT VOS_DRIFT_INA186A4 VOS+ VOS-
.param DC = -7.061e-6
.param POL = 1
.param DRIFT = 0.05e-6
E1 VOS+ VOS- VALUE={DC+POL*DRIFT*(TEMP-27)}
.ends
*$
*
